US05141931
To 250 mL of THF was added 14 g (67 mmol) of 6-bromoquinoline and 44 mL (88 mmol) of 2M butyllithium in pentane was added at -70° under argon. The reaction was stirred for 15 minutes and 28.4 g (87.2 mmol) of tributyltin chloride was added at such a rate that the temperature remained below -60° . When addition was complete, the mixture was allowed to warm to -50° at which point the dark orange color characteristic of the anion became light amber. The mixture was stirred for 14 hrs at -70° and poured into ice-water and ether. The layers were separated, the ether layer washed with water, dried with magnesium sulfate, filtered and concentrated. The resultant oil was chromatographed on a silica gel column (30 cm ×6 cm) using 30% ether in hexane to provide 17.8 g (63%) of 6-quinolinyltributylstannane.

reactant | THF | 250 mL | C1CCOC1 | C4H8O
reactant | 6-bromoquinoline | 67 mmol, 14 g | BrC=1C=C2C=CC=NC2=CC1 | C9H6BrN
reactant | butyllithium | 88 mmol, 2M, 44 mL | C(CCC)[Li]
reactant | tributyltin chloride | 87.2 mmol, 28.4 g | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | pentane | CCCCC | C5H12
solvent | ether | CCOCC | C4H10O
product | 6-quinolinyltributylstannane | 17.8 g, 63% | N1=CC=CC2=CC(=CC=C12)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H6N.3C4H9.Sn/c1-2-6-9-8(4-1)5-3-7-10-9;3*1-3-4-2;/h2-7H;3*1,3-4H2,2H3;
